US08633173B2
[8-(4-Methanesulfonylmethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine
[8-(4-Methanesulfonylmethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine was prepared from 8-(4-methanesulfonylmethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (50.0 mg, 0.165 mmol) and 1-(4-bromo-phenyl)-4-methyl-piperazine (51.0 mg, 0.200 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (20.0 mg, 0.0366 mmol) as the ligand in a manner analogous to Step 2d. The title compound was isolated as a yellow foam (0.009 g, 11%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.44-8.40 (m, 1H), 8.08 (d, J=8.1 Hz, 2H), 7.60-7.54 (m, 3H), 7.51-7.46 (m, 2H), 7.00-6.93 (m, 3H), 6.70 (s, 1H), 4.32 (s, 2H), 3.21-3.14 (m, 4H), 2.83 (s, 3H), 2.66-2.56 (m, 4H), 2.37 (s, 3H). MS=477 (MH)+.

reactant | 8-(4-methanesulfonylmethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.165 mmol, 50.0 mg | CS(=O)(=O)CC1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)N | C14H14N4O2S
reactant | 1-(4-bromo-phenyl)-4-methyl-piperazine | 0.200 mmol, 51.0 mg | BrC1=CC=C(C=C1)N1CCN(CC1)C | C11H15BrN2
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0366 mmol, 20.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | [8-(4-Methanesulfonylmethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | CS(=O)(=O)CC1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)N2CCN(CC2)C | C25H28N6O2S
